US09193720B2
The diacetoxypalladium (11.3 mg, 0.05 mmol) was added to a argon purged and degassed solution of (S)-isopropyl 2-(4-(4-benzylpiperidin-1-yl)-5-bromo-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (267 mg, 0.502 mmol), 2-(4-(4-fluorophenethoxy)phenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione (205 mg, 0.553 mmol), and 2-dicyclohexylphosphino-2′,6′-dimethoxy-biphenyl (41 mg, 0.10 mmol), and potassium phosphate tribasic (800 mg, 3.77 mmol) in dioxane (4 mL) and water (0.8 mL) and stirred in a screw-capped pressure vessel for 16 h at 90° C. The reaction was allowed to cool, diluted with EtOAc, and the organic layer was washed with brine and dried (MgSO4). The crude product was charged (DCM) to a 40 g ISCO silica gel cartridge and gradient elution (0-35% EtOAc/hexanes) using an Isolera chromatography station gave (S)-isopropyl 2-(4-(4-benzylpiperidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate 131 mg (39%) as a mixture of diastereomers. 1H NMR (500 MHz, DMSO-d6) δ 7.43-7.37 (m, 2H), 7.24-7.22 (m, 2H), 7.18-7.12 (m, 4H), 7.10 (t, J=7.3 Hz, 2H), 6.99-6.92 (m, 3H), 5.92 (s, 1H), 4.97-4.92 (m, 1H), 4.21 (t, J=6.2 Hz, 2H), 3.37-3.37 (m, 4H), 3.06 (t, J=6.2 Hz, 2H), 2.46 (br. s, 2H), 2.42 (s, 3H), 2.02 (s, 3H), 1.70 (t, J=8.8 Hz, 1H), 1.45-1.43 (m, 1H), 1.37-1.34 (m, 1H), 1.29-1.22 (m, 2H), 1.18 (d, J=6.2 Hz, 3H), 1.14 (d, J=3.2 Hz, 3H), 1.09 (m, 9H). UPLC (M+H)=667.5.

reactant | (S)-isopropyl 2-(4-(4-benzylpiperidin-1-yl)-5-bromo-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 0.502 mmol, 267 mg | C(C1=CC=CC=C1)C1CCN(CC1)C1=C(C(=NC(=C1Br)C)C)[C@@H](C(=O)OC(C)C)OC(C)(C)C | C28H39BrN2O3
reactant | 2-(4-(4-fluorophenethoxy)phenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione | 0.553 mmol, 205 mg | FC1=CC=C(CCOC2=CC=C(C=C2)B2OC(CN(CC(O2)=O)C)=O)C=C1 | C19H19BFNO5
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxy-biphenyl | 0.10 mmol, 41 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | potassium phosphate tribasic | 3.77 mmol, 800 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.8 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | diacetoxypalladium | 0.05 mmol, 11.3 mg | C(C)(=O)O[Pd]OC(C)=O
product | (S)-isopropyl 2-(4-(4-benzylpiperidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 131 mg, 39% | C(C1=CC=CC=C1)C1CCN(CC1)C1=C(C(=NC(=C1C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C)[C@@H](C(=O)OC(C)C)OC(C)(C)C | C42H51FN2O4
